US05294612
1-Cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide (2.0 g, 9.0 mmol), 6-methyl-2-pyridinecarboxaldehyde (2.2 g, 18.0 mmol), methanesulfonic acid (0.5 ml) and xylenes (80 ml) were combined and heated to reflux for 24 hours. The solvents were removed in vacuo, ethanol was added and the solvents were removed in vacuo. The residue was partitioned between 10% K2CO3 and chloroform, the organic layer was separated and the aqueous layer was extracted with chloroform (3×200 ml). The combined organic layers were concentrated in vacuo, redissolved in dichloromethane and combined with silica gel (40 g). The slurry was air dried for 3 hours, and placed on a silica gel column (150 g). Elution with ether and concentration of the solvent in vacuo and drying the residue at 40° C. in high vacuum for 6 hours afforded 1.55 g (53%) of 1-cyclopentyl-3-ethyl-6-(6-methyl-2-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one.

reactant | 1-Cyclopentyl-3-ethyl-5-amino-1H-pyrazole-4-carboxamide | 9.0 mmol, 2.0 g | C1(CCCC1)N1N=C(C(=C1N)C(=O)N)CC | C11H18N4O
reactant | 6-methyl-2-pyridinecarboxaldehyde | 18.0 mmol, 2.2 g | CC1=CC=CC(=N1)C=O | C7H7NO
reactant | methanesulfonic acid | 0.5 ml | CS(=O)(=O)O | CH4O3S
product | 1-cyclopentyl-3-ethyl-6-(6-methyl-2-pyridyl)-pyrazolo[3,4-d]pyrimidin-4-one | 1.55 g, 53% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)C2=NC(=CC=C2)C)CC | C18H21N5O
